US06011028
2-[(tetrahydro-2H-pyran-2-yl)methyl]cyclohexanol
To a stirring THF solution of the Grignard reagent (formed from 2-(bromomethyl)tetrahydro-2H-pyran, 16a and powdered magnesium, 20 milligram-atoms) and cooled to -30° C., CuI is added as a bolus. After approx. 10 min., a solution of cyclohexene oxide (10 mmol) is added slowly, maintaining the reaction temperature below -25° C. until the addition is complete. The mixture is then stirred at 0° C. for 2 hours and checked by TLC and/or GC. The reaction is quenched by pouring into concentrated NH4Cl solution (if starting material remains, the reaction may be warmed to r.t. and followed by TLC or GC until no additional starting material is observed). Also, the addition of some concentrated NH4OH solution combined with vigorous stirring may be used to remove suspended CuI from the mixture. This mixture is then extracted with 2 portions of ether or 1:1 EA-hexane. The combined extracts are then washed with brine and dried (MgSO4). The product may be sufficiently pure at this point for use in the next reaction. Otherwise, it may be purified by distillation or flash chromatography.

reactant | cyclohexene oxide | 10 mmol | C12C(CCCC1)O2 | C6H10O
reactant | NH4OH | [NH4+].[OH-]
catalyst | CuI | [Cu]I
solvent | THF | C1CCOC1 | C4H8O
product | 2-[(tetrahydro-2H-pyran-2-yl)methyl]cyclohexanol | O1C(CCCC1)CC1C(CCCC1)O | C12H22O2
